US07399775B2
5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1,9-nonanediol
To a solution of 2-[5-(t-butyldimethylsilyloxy)-1-[4-(t-butyldimethylsilyloxy)butyl]-1-(4-chlorophenylsulfonyl)pentyl]-1,4-difluorobenzene (158 mg, 0.234 mmol) in tetrahydrofuran (4 ml) was added tetrabutylammonium fluoride (a 1M tetrahydrofuran solution, 0.702 ml, 0.702 mmol). The resulting mixture was stirred at room temperature for 24 hours. After concentration of the reaction mixture, the residue was dissolved in diethyl ether, followed by successive washing with water and brine, drying over MgSO4, and concentration. The residue thus obtained was purified by medium-pressure chromatography on a silica gel column (5% methanol-methylene chloride) to yield a colorless solid. The resulting solid was recrystallized from ethyl acetate-hexane, whereby the title compound (97.0 mg, 93%) was obtained as a colorless solid.

reactant | 2-[5-(t-butyldimethylsilyloxy)-1-[4-(t-butyldimethylsilyloxy)butyl]-1-(4-chlorophenylsulfonyl)pentyl]-1,4-difluorobenzene | 0.234 mmol, 158 mg | [Si](C)(C)(C(C)(C)C)OCCCCC(S(=O)(=O)C1=CC=C(C=C1)Cl)(CCCCO[Si](C)(C)C(C)(C)C)C1=C(C=CC(=C1)F)F | C33H53ClF2O4SSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1,9-nonanediol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCO)(CCCCO)C1=C(C=CC(=C1)F)F | C21H25ClF2O4S
